US04734416
18.3 Grams of 3,4,5-trimethoxyaniline and 31.2 g of bis(β-bromoethyl)amine monohydrobromide are mixed with 170 ml of methanol and refluxed by heating under a nitrogen gas stream for 10 hours. After cooling the reaction mixture, 5.3 g of anhydrous sodium carbonate are added to the mixture and refluxed by heating for and additional 10 hours. Under reduced pressure, about 70 ml of methanol are removed off by distillation, and the mixture is allowed to stand to cool at room temperature. The crystals thus precipitated are collected by filtration and washed with a small amount of ethanol. Recrystallization from ethanol obtains 38 g of 4-(3,4,5-trimethoxyphenyl)piperazine monohydrobromide in the form of colorless plate-like crystals with a melting point of 227°-228° C.

reactant | 3,4,5-trimethoxyaniline | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
reactant | bis(β-bromoethyl)amine monohydrobromide | 31.2 g | Br.BrCCNCCBr
reactant | sodium carbonate | 5.3 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 170 ml | CO | CH4O
product | 4-(3,4,5-trimethoxyphenyl)piperazine monohydrobromide | 38 g | Br.COC=1C=C(C=C(C1OC)OC)N1CCNCC1 | InChI=1S/C13H20N2O3.BrH/c1-16-11-8-10(15-6-4-14-5-7-15)9-12(17-2)13(11)18-3;/h8-9,14H,4-7H2,1-3H3;1H
